* CL05A475MP5NRN Multilayer Ceramic Capacitor Spice Model
*-----------------------------------------------------------------------------------------------
* Model Generated by Samsung Electro-Mechanics
* Samsung Spice Model Version 5.0
* Date : Jan-11-2024
* Products : Multilayer Ceramic Capacitor(General)
*-----------------------------------------------------------------------------------------------
* Characteristics :
*
*     Nominal Capacitance = 4.7uF
*     Capacitance Tolerance = +/-20%
*     TCC = X5R(-55 ~ +85 degC.)
*     Rated Voltage = 10Vdc
*     Size = 0402(unit:inch), 1005(unit:mm)
*     Length = 1.00+/-0.15mm
*     Width = 0.50+/-0.15mm
*     Thickness = 0.50+/-0.15mm
*     Reliability level = Standard
*     Lineup = Lineup Normal
*     Feature = Features Normal
*     Measurement Temperature : 25degC.
*     DC bias Value = 2.5V
*     Frequency : 100Hz ~ 6GHz
*-----------------------------------------------------------------------------------------------
* External Node Assignments :
*
*  1  o---||---o  2
*
*-----------------------------------------------------------------------------------------------
.SUBCKT CL05A475MP5NRN_Precise_DC2.5V_25degC 1 2
C1 1 3 2.18250E-6
C2 3 4 5.31688E-5
C3 4 5 8.40800E-5
C4 5 6 7.93940E-5
C5 6 7 9.46871E-5
C6 7 8 7.35744E-5
C7 8 9 1.33519E-5
C8 9 10 1.0E-10
C16 17 18 2.08419E-4
C17 18 19 0.00114
C18 19 20 0.00165
C19 20 21 7.92359E-4
C20 21 22 2.53303E-4
C21 22 23 2.53303E-4
C22 23 24 2.53303E-4
C23 24 25 4.59985E-6
C24 25 26 1.06214E-6
C25 26 27 2.53303E-4
C26 27 28 5.31326E-12
C27 28 2 2.53303E-4
L10 11 12 6.04291E-11
L11 12 13 3.52719E-11
L12 13 14 1.23462E-10
L13 14 15 4.48877E-11
L14 15 16 1.0E-10
L15 16 17 1.0E-10
L16 17 18 9.49824E-12
L17 18 19 5.00874E-12
L18 19 20 4.77789E-13
L19 20 21 6.27051E-13
L20 21 22 1.0E-10
L21 22 23 1.0E-10
L22 23 24 1.0E-10
L23 24 25 5.40652E-11
L24 25 26 7.76171E-11
L25 26 27 1.0E-10
L26 27 28 3.30755E-11
L27 28 2 1.0E-10
R1 1 3 1.0E8
R2 3 4 76.92028
R3 4 5 3.64914
R4 5 6 0.46591
R5 6 7 0.04843
R6 7 8 0.00766
R7 8 9 0.00170
R8 9 10 1.0E-6
R9 10 11 0.00227
R11 12 13 0.00766
R12 13 14 0.02662
R13 14 15 0.13712
R14 15 16 1.0E-6
R15 16 17 1.0E-6
R16 17 18 0.00228
R17 18 19 7.67100E-4
R18 19 20 2.52977E-4
R19 20 21 4.01162E-4
R20 21 22 1.0E-6
R21 22 23 1.0E-6
R22 23 24 1.0E-6
R23 24 25 0.00587
R24 25 26 0.00773
R25 26 27 1.0E-6
R26 27 28 3.08461
R27 28 2 1.0E-6
.ENDS CL05A475MP5NRN_Precise_DC2.5V_25degC